US04143047
4,5-Dimethyl-2-methylthiooxazole
4,5-Dimethyl-2(3H)-oxazolethione [Bull. Soc. Chim. Belg. 70, 745, (1961)] (37.5 g, 0.29 m) in 2N aqueous sodium hydroxide (150 ml) was stirred at room temperature during the dropwise addition of dimethyl sulphate (40.0 g, 0.317 m). The mixture was stirred for 4 hours at room temperature and then warmed to 50° C, cooled, and the aqueous phase extracted with diethyl ether. Evaporation of the solvent and distillation of the residue under reduced pressure gave 33.85 g (81%) of the title product as a pale yellow oil, b.p. 82° C./13 mm.

reactant | 4,5-Dimethyl-2(3H)-oxazolethione | 37.5 g | CC=1NC(OC1C)=S | C5H7NOS
reactant | dimethyl sulphate | 40.0 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | sodium hydroxide | 2N, 150 ml | [OH-].[Na+]
product | 4,5-Dimethyl-2-methylthiooxazole | 33.85 g, 81% | CC=1N=C(OC1C)SC | C6H9NOS
